US07977331B1
To a solution of methyl 12-cyclohexyl-4-[2-(piperidin-1-yl)ethoxy]-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (240 mg, 0.48 mmol) in tetrahydrofuran (4 ml) and methanol (4 ml) was added 4N aqueous sodium hydroxide (2.5 ml), and the mixture was stirred at 60° C. for 2 hr. 2N Hydrochloric acid (5.1 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate:tetrahydrofuran (2:1). The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. To a solution of the obtained residue in tetrahydrofuran (1 ml) was added 4N HCl-ethyl acetate solution (2 ml). The solvent was evaporated under reduced pressure, and hexane:ethyl acetate (4:1) solution was added to the obtained residue. The precipitated solid was collected by filtration and washed with hexane:ethyl acetate (4:1) solution. The obtained solid was dried in vacuo to give 12-cyclohexyl-4-[2-(piperidin-1-yl)ethoxy]-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid hydrochloride (160 mg, yield 64%).

reactant | methyl 12-cyclohexyl-4-[2-(piperidin-1-yl)ethoxy]-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 0.48 mmol, 240 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4OCCN4CCCCC4)C=C(C=C2)C(=O)OC | C31H38N2O4
reactant | sodium hydroxide | 4N, 2.5 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 2N, 5.1 ml | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | 12-cyclohexyl-4-[2-(piperidin-1-yl)ethoxy]-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid hydrochloride | 160 mg, yield 64% | Cl.C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4OCCN4CCCCC4)C=C(C=C2)C(=O)O | InChI=1S/C30H36N2O4.ClH/c33-30(34)22-12-13-23-25(20-22)32-17-19-36-29-24(28(32)27(23)21-8-3-1-4-9-21)10-7-11-26(29)35-18-16-31-14-5-2-6-15-31;/h7,10-13,20-21H,1-6,8-9,14-19H2,(H,33,34);1H
